US08420684B2
Compound 254 1-(1H-Benzoimidazol-5-yl)-5-(2,4-dimethyl-cyclohex-3-enyl)-4-(isopropylimino)-imidazolidin-2-one
1H-Benzoimidazol-5-ylamine (1 mmol) and 2,4-Dimethyl-cyclohex-3-ene carbaldehyde (1 mmol) were combined in methanol (2 ml, dry). After 2 hours 2 ml of a solution of KOCN (KSCN) (2 mmol) and Pyridinehydrochloride (2 mmol) in MeOH is added was added. Finally 2-Isocyano-propane (1 mmol) is added. The reaction was stirred at room temperature for 48 h. After evaporation of the solvent the residue was purified with chromatographic methods.

reactant | 1H-Benzoimidazol-5-ylamine | 1 mmol | N1C=NC2=C1C=CC(=C2)N | C7H7N3
reactant | 2,4-Dimethyl-cyclohex-3-ene carbaldehyde | 1 mmol | CC1C(CCC(=C1)C)C=O | C9H14O
reactant | KOCN | 2 mmol | O([K])C#N
reactant | Pyridinehydrochloride | 2 mmol | Cl.N1=CC=CC=C1
reactant | 2-Isocyano-propane | 1 mmol | [N+](#[C-])C(C)C | C4H7N
solvent | methanol | 2 ml | CO | CH4O
product | 1-(1H-Benzoimidazol-5-yl)-5-(2,4-dimethyl-cyclohex-3-enyl)-4-(isopropylimino)-imidazolidin-2-one | N1C=NC2=C1C=CC(=C2)N2C(NC(C2C2C(C=C(CC2)C)C)=NC(C)C)=O | C21H27N5O
